US08729064B2
To a solution of 4-amino-3-hydroxy-benzoic acid methyl ester (5 g, 29.91 mmol) in CH3OH (150 mL) was added cyclohexanecarbaldehyde (3.6 mL, 29.91 mmol) at room temperature. The resulting mixture was stirred at room temperature for 2 h. The solvent was removed by evaporation and CH3CN (150 mL) was added to the residue. Lead (IV) acetate (13.26 g, 29.91 mmol) was added as one portion under N2 and the resulting mixture was refluxed for 10 min. After cooling, the resulting solid was filtered and washed with CH3CN. To the filtrate was then added 3N NaOH (40 mL). The resulting mixture was stirred at 50° C. for 18 h. The solvent was removed by evaporation and the resulting residue was purified by flash chromatography on silica gel to yield 2-cyclohexyl-benzooxazole-6-carboxylic acid. MS m/z (M+H+) 246.2.

reactant | 4-amino-3-hydroxy-benzoic acid methyl ester | 29.91 mmol, 5 g | COC(C1=CC(=C(C=C1)N)O)=O | C8H9NO3
reactant | cyclohexanecarbaldehyde | 29.91 mmol, 3.6 mL | C1(CCCCC1)C=O | C7H12O
reactant | Lead (IV) acetate | 29.91 mmol, 13.26 g | C(C)(=O)[O-].[Pb+4].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-]
solvent | CH3OH | 150 mL | CO | CH4O
product | 2-cyclohexyl-benzooxazole-6-carboxylic acid | C1(CCCCC1)C=1OC2=C(N1)C=CC(=C2)C(=O)O | C14H15NO3
